US09024027B2
A mixture of tert-butyl 2-(4-nitro-1,3-dioxoisoindolin-2-yl)acetate (1.44 g, 4.70 mmol) and 10% w/w Pd/C (a catalytic amount) in MeOH (150 ml) was hydrogenated in a Parr apparatus at 25 psi for 3 hours. The catalyst was filtered off and the filtrate was evaporated; the residue was purified by a quick flash chromatography on silica gel (Hexane/EtOAc 1/1) to obtain tert-butyl 2-(4-amino-1,3-dioxoisoindolin-2-yl)acetate (712 mg, 2.58 mmol, 54.8% yield, MS/ESI+ 299.0 [MNa]+).

reactant | tert-butyl 2-(4-nitro-1,3-dioxoisoindolin-2-yl)acetate | 4.70 mmol, 1.44 g | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C14H14N2O6
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 2-(4-amino-1,3-dioxoisoindolin-2-yl)acetate | 2.58 mmol, 712 mg, 54.8% yield | NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C14H16N2O4
